US07074801B1
6-Bromo-3-iodoimidazo[1,2-a]pyridine
10.7 g N-iodosuccinimide was added in divided portions to 100 mL solution of 9 g 6-bromoimidazo[1,2-a]pyridine in N,N-dimethylformamide, and the mixture was stirred for 2 hours. An aqueous sodium thiosulfate solution was added thereto and stirred for 1 hour, water was added thereto, and the formed crystals were collected by filtration. The product was recrystallized from tetrahydrofuran/ethanol to give 13.5 g of the title compound (colorless crystals).

reactant | N-iodosuccinimide | 10.7 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | 6-bromoimidazo[1,2-a]pyridine | 9 g | BrC=1C=CC=2N(C1)C=CN2 | C7H5BrN2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 6-Bromo-3-iodoimidazo[1,2-a]pyridine | 13.5 g | BrC=1C=CC=2N(C1)C(=CN2)I | C7H4BrIN2
